US06924278B2
Sodium bis(2-methoxyethoxy)aluminum hydride (3.46 M solution in toluene; 42 ml) was added to a solution of 4-benzyl-5-hydroxymethyl-5-methyl-3-morpholinone (10.77 g) in toluene (100 ml) at 0° C. under nitrogen atmosphere and the whole was stirred at room temperature for 1 hour. Ethanol (20 ml) was added to the mixture at 0° C. and the pH of the mixture was adjusted to 12 by 1N sodium hydroxide solution. The organic layer was separated, added 1N hydrochloric acid and the acidic aqueous layer was separated. This procedure was repeated twice and the combined aqueous layer was made alkaline with 4 M sodium hydroxide solution. It was extracted with ethyl acetate, dried over magnesium sulfate and evaporated in vacuo to give 4-benzyl-3-hydroxymethyl-3-methylmorpholine (9.35 g) as an oil.

reactant | Sodium bis(2-methoxyethoxy)aluminum hydride | 3.46 M, 42 ml | [H-].COCCO[Al+]OCCOC.[Na+].[H-]
reactant | 4-benzyl-5-hydroxymethyl-5-methyl-3-morpholinone | 10.77 g | C(C1=CC=CC=C1)N1C(COCC1(C)CO)=O | C13H17NO3
reactant | Ethanol | 20 ml | C(C)O | C2H6O
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 4-benzyl-3-hydroxymethyl-3-methylmorpholine | 9.35 g | C(C1=CC=CC=C1)N1C(COCC1)(C)CO | C13H19NO2
